US06057329
N-(3,4,5-Trimethoxyphenyl)-benzo[h]-6-thia-5,6-dihydroquinazoline-2-amine
The 3,4-dihydro-2-(dimethylaminomethylene)-4-thia-1(2H)-naphthalenone starting material was prepared from thiochroman-4-one (4.93 g, 26.8 mmol) and N,N-dimethylformamide diethyl acetal (23 ml, 133.8 mmol) to give the desired product as golden yellow crystals (5.15 g) m.p. 96-97°. MS (ES+) 220 (MH+, 100%).

reactant | thiochroman-4-one | 26.8 mmol, 4.93 g | S1CCC(C2=CC=CC=C12)=O | C9H8OS
reactant | N,N-dimethylformamide diethyl acetal | 133.8 mmol, 23 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3,4-dihydro-2-(dimethylaminomethylene)-4-thia-1(2H)-naphthalenone | CN(C)C=C1C(C2=CC=CC=C2SC1)=O | C12H13NOS
